US08937071B2
To a mixture of 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (4.58 g, 11.90 mmol) and ethyl 3-(4-(2-(4-bromo-2-fluorophenyl)acetamido)-2-(trifluoromethyl)phenyl)-2,2-dimethylpropanoate (6 g, 11.90 mmol) in H2O (1 mL) and 1,4-dioxane (3 mL) was added cesium carbonate (7.75 g, 23.79 mmol) and PdCl2(dppf) (0.435 g, 0.595 mmol) under N2. Then the mixture was stirred and irradiated in a microwave oven at 120° C. for 30 min. The mixture was concentrated and extracted with EA. The combined organic layers were concentrated. The crude material was purified on silica column chromatography (PE/EA=5:1). All fractions found to contain product by TLC (PE/EA=2:1, Rf=0.45) were combined and concentrated to yield a yellow solid of ethyl 3-(4-(2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamido)-2-(trifluoromethyl)phenyl)-2,2-dimethylpropanoate (4.5 g, 4.63 mmol, 38.9% yield): 1H NMR (400 MHz, CD3OD) δ: 7.98-7.93 (m, 2H), 7.70 (d, J=6.8 Hz, 1H), 7.46-7.35 (m, 6H), 7.23 (d, J=8.6 Hz, 1H), 6.90 (d, J=8.6 Hz, 2H), 5.36 (s, 2H), 4.18-4.10 (m, 4H), 3.83-3.75 (m, 5H), 3.09-3.05 (m, 2H), 1.41 (t, J=7.2 Hz, 3H), 1.24 (d, J=1.8 Hz, 9H); ES-LCMS m/z 563 (M−120).

reactant | 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 11.90 mmol, 4.58 g | C(C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OCC1=CC=C(C=C1)OC | C21H28BNO5
reactant | ethyl 3-(4-(2-(4-bromo-2-fluorophenyl)acetamido)-2-(trifluoromethyl)phenyl)-2,2-dimethylpropanoate | 11.90 mmol, 6 g | BrC1=CC(=C(C=C1)CC(=O)NC1=CC(=C(C=C1)CC(C(=O)OCC)(C)C)C(F)(F)F)F | C22H22BrF4NO3
reactant | cesium carbonate | 23.79 mmol, 7.75 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | H2O | 1 mL | O | H2O
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.595 mmol, 0.435 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(4-(2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamido)-2-(trifluoromethyl)phenyl)-2,2-dimethylpropanoate | 4.63 mmol, 4.5 g, 38.9% yield | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=CC(=C(C=C1)CC(C(=O)OCC)(C)C)C(F)(F)F)F | C37H38F4N2O6
